US06365736B1
T) 6-Amino-2-ethyl-1,4-benzoxazine-3-thione
1 g of 6-nitro-2-ethyl-1,4-benzoxazine-3-thione is dissolved with 7.6 ml of glacial acetic acid and 1 ml of water, and it is mixed with 950 mg of iron powder. After several hours at room temperature, it is poured onto water. The crystals are suctioned off and washed with water, dissolved again with ethyl acetate and washed neutral with brine, the organic phase is dried with magnesium sulfate and concentrated by evaporation. After column chromatography with hexane/ethyl acetate, a yield of 811 mg results.

reactant | 6-nitro-2-ethyl-1,4-benzoxazine-3-thione | 1 g | [N+](=O)([O-])C=1C=CC2=C(NC(C(O2)CC)=S)C1 | C10H10N2O3S
reactant | acetic acid | 7.6 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 950 mg | [Fe] | Fe
solvent | water | 1 ml | O | H2O
product | 6-Amino-2-ethyl-1,4-benzoxazine-3-thione | NC=1C=CC2=C(NC(C(O2)CC)=S)C1 | C10H12N2OS
